Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
open appendectomy

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS
 
This patient is a ___ year old male who complains of ABD
PAIN.
This patient has had waxing and waning right lower quadrant
abdominal pain for several days. The pain started and has
remained in the right lower quadrant. He has nausea without
vomiting. He has chills with subjective but not measured
fever.
He has no urinary tract symptoms.
                       Timing: Gradual
                     Severity: Moderate
                     Duration: ___ days
                     Location: Right lower quadrant
    Associated Signs/Symptoms: Nausea and chills

 
Past Medical History:
Past Medical History: IDDM, High Cholesterol

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION
 
Temp: 97.4 HR: 77 BP: 130/85 Resp: 18 O(2)Sat: 99 Normal
 
Constitutional: Comfortable
HEENT: Extraocular muscles intact
Mucous membranes moist
Chest: Clear to auscultation
Cardiovascular: Normal first and second heart sounds
without murmur
Abdominal: Soft with right lower quadrant tenderness
GU/Flank: No costovertebral angle tenderness
Extr/Back: No edema or calf tenderness
Skin: No zoster
Neuro: Speech fluent
Psych: Normal mood

 
Pertinent Results:
___ 07:00AM BLOOD WBC-8.8 RBC-4.14* Hgb-13.6* Hct-38.0* 
MCV-92 MCH-32.8* MCHC-35.7* RDW-12.7 Plt ___
___ 02:33PM BLOOD WBC-7.3 RBC-4.38* Hgb-14.5 Hct-40.4 
MCV-92 MCH-33.2* MCHC-36.0* RDW-12.8 Plt ___
___ 02:33PM BLOOD Neuts-71.2* ___ Monos-4.9 Eos-1.6 
Baso-0.9
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-189* UreaN-15 Creat-0.7 Na-138 
K-4.2 Cl-102 HCO3-23 AnGap-17
___ 02:33PM BLOOD Glucose-229* UreaN-18 Creat-0.8 Na-140 
K-4.5 Cl-103 HCO3-29 AnGap-13
___ 02:33PM BLOOD ALT-21 AST-19 AlkPhos-52 TotBili-0.7
___ 07:00AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.7

___: cat scan of the abdomen and pelvis:

IMPRESSION: 
  
Dilated, fluid-filled appendix measuring 9 mm in diamater with 
hyperemic wall. 
There is moderate periappendiceal fat stranding. No abscess 
formation or 
extraluminal air is noted. The above findings are most 
compatible with 
uncomplicated acute appendicitis. 

 
Brief Hospital Course:
Admitted to the acute care service with abdominal pain.  Upon 
admission, he was made NPO, given intravenous fluids, and 
underwent radiographic imaging.  He was reported to have a 
dilated, fluid-filled appendix measuring 9 mm in diamater with 
hyperemic wall consistent with acute appendicitis.  He was taken 
to the operating room for a laparoscopic appendectomy, which was 
converted to an open procedure.  His operative course was 
stable. His post-operative incisional pain is controlled with 
oral analgesia. His completed his post-operative antibiotic 
course.  His vital signs are stable.  He has progressed from 
clear liquids to a regular diet without complaints of nausea.  
He has monitored his blood sugar and maintained his blood sugar 
via his insulin pump.
He is preparing for discharge home with instructions to follow 
up in 2 weeks with the acute care service.  
 
 
Medications on Admission:
___: simvastatin 20', insulin pump, glucagon prn 
 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain: may cause drowsiness, avoid driving .
Disp:*20 Tablet(s)* Refills:*0*
2. insulin pump self admisnistering SC
3. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
hold for diarrhea.  
5. glucagone as needed for low blood sugars

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with lower abdominal pain.  
You were taken to the operating room where you had your appendix 
removed.  You are now preparing for dishcharge with the 
following instructions:

You are being discharged on medications to treat the pain from 
your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST  refrain from such activities while 
taking these medications. 

 

 

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___